US08859773B2
3-amino-1H-indazole-5-carboxylic acid, shown below, was prepared as follows
To a solution of 3-cyano-4-fluorobenzoic acid (980.0 mg, 5.94 mmol) in ethanol (6 mL), was added hydrazine hydrate (0.89 mL, 17.8 mmol). The reaction was heated at reflux for 3 hours. The reaction was cooled to room temperature and ethanol was removed under reduced pressure. The resultant yellow oil was taken up in water (50 mL) and basified with 1 N aqueous sodium hydroxide (5 mL). The solution was washed once with ethyl acetate (25 mL). The aqueous phase was acidified to pH=3 with 6 N aqueous hydrochloric acid and was allowed to stir at room temperature for 1 hour. The resulting precipitate was collected by filtration and dried under vacuum to give the title compound (612 mg, 48%) as a pink solid. +ESI (M+H) 178.1; 1H NMR (400 MHz, DMSO-d6, δ): 8.42-8.47 (m, 1H), 7.76 (dd, J=8.8, 1.6 Hz, 1H), 7.21 (d, J=8.8 Hz, 1H).

reactant | 3-cyano-4-fluorobenzoic acid | 5.94 mmol, 980.0 mg | C(#N)C=1C=C(C(=O)O)C=CC1F | C8H4FNO2
reactant | hydrazine hydrate | 17.8 mmol, 0.89 mL | O.NN
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 3-amino-1H-indazole-5-carboxylic acid | 612 mg, 48% | NC1=NNC2=CC=C(C=C12)C(=O)O | C8H7N3O2
